US05010082
Preparation of 4-methyl-6-cyclopropyl-2-[1-(2-methylphenyl) -ethylidenehydrazino]-pyrimidine
3.3 g of 2-hydrazino-4-methyl-6-cyclopropylpyrimidine and 2.7 g of 2-methylacetophenone are heated to boiling in 40 ml of ethanol and boiled under reflux for 20 hours with stirring. The reaction solution is then cooled and the solvent is evaporated off in vacuo. For purification, the oily residue is chromatographed using hexane/ethyl acetate (2:1) over a column of silica gel.

reactant | 2-hydrazino-4-methyl-6-cyclopropylpyrimidine | 3.3 g | N(N)C1=NC(=CC(=N1)C)C1CC1 | C8H12N4
reactant | 2-methylacetophenone | 2.7 g | CCC(=O)C1=CC=CC=C1 | C9H10O
reactant | ethanol | 40 ml | C(C)O | C2H6O
product | 4-methyl-6-cyclopropyl-2-[1-(2-methylphenyl) -ethylidenehydrazino]-pyrimidine | CC1=NC(=NC(=C1)C1CC1)NN=C(C)C1=C(C=CC=C1)C | C17H20N4
